US05753679
3.98 g (0.02 mol) of 1-benzyl-4-hydroxy-piperidine in 70 ml of toluene were treated with 0.624 g of NaH (50%) and heated at reflux for 1 1/2 hr. while gassing with argon. Subsequently, 3.32 g (0.022 mol) of methyl 4-amino-benzoate dissolved in 80 ml of toluene were added dropwise over 1/2 hr. and the mixture was heated at reflux for a further 2 hrs. The suspension obtained was added to 400 mi of water and the mixture was stirred. The precipitate was filtered off under suction and washed with toluene and hexane. The organic phase of the filtrate was separated, washed three times with water, dried over MgSO4 and evaporated and the residue was combined with the filter material. Chromatography was carried out over silica gel with chloroform as the eluent and recrystallization was carried out from ethyl acetate/hexane. 2.4 g (38.7%) of 1-benzyl-piperidin-4-yl 4-amino-benzoate were obtained as colorless crystals; m.p. 119°-120° C.

reactant | 1-benzyl-4-hydroxy-piperidine | 0.02 mol, 3.98 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | NaH | 0.624 g | [H-].[Na+]
reactant | methyl 4-amino-benzoate | 0.022 mol, 3.32 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | water | O | H2O
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-piperidin-4-yl 4-amino-benzoate | 2.4 g, 38.7% | NC1=CC=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=C1 | C19H22N2O2
